US09284333B2
To a solution of 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid (Comp. No. 7c) (50 mg, 0.180 mmol) in dimethylformamide (2 ml) was added 1-hydroxybenzotriazole (27 mg, 0.197 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (38 mg, 0.197 mmol). The mixture was stirred for 90 min at 50° C., then (R)-1-(6-trifluoromethyl-pyridin-3-yl)-propylamine hydrochloride (48 mg, 0.20 mmol) and triethylamine (55 mg, 0.54 mmol) were added and the mixture was stirred at 25° C. overnight. The mixture was filtered through a small filter cartridge and the solution was purified by reverse phase HPLC (acetonitrile/water gradient with 0.1% trifluoroacetic acid) to give 45 mg (54%) of 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid [(R)-1-(6-trifluoromethyl-pyridin-3-yl)-propyl]-amide as white solid. LC/MS (method 5): Rt=4.12 min; m/z=465.35 (M+H+). 1H-NMR (400 MHz): δ (ppm)=8.76 (1H, s), 8.26 (1H, d), 8.01 (1H, d), 7.89 (1H, d), 7.24 (1H, s), 4.93-4.98 (2H, m), 4.84 (1H, d), 4.20-4.29 (2H, m), 3.92-3.99 (2H, m), 3.79-3.84 (1H, m), 3.69 (2H, bs), 2.07 (1H, m), 1.96 (1H, m), 1.77-1.89 (3H, m), 1.56 (1H, m), 1.19 (3H, d), 0.92 (3H, t).

reactant | 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid | C[C@@H]1N(CCC1)C(=O)C1=CC(=C2COCCN21)C(=O)O | C14H18N2O4
reactant | 1-hydroxybenzotriazole | 0.197 mmol, 27 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.197 mmol, 38 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | (R)-1-(6-trifluoromethyl-pyridin-3-yl)-propylamine hydrochloride | 0.20 mmol, 48 mg | Cl.FC(C1=CC=C(C=N1)[C@@H](CC)N)(F)F
reactant | triethylamine | 0.54 mmol, 55 mg | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid [(R)-1-(6-trifluoromethyl-pyridin-3-yl)-propyl]-amide | 45 mg, 54% | FC(C1=CC=C(C=N1)[C@@H](CC)NC(=O)C=1C=C(N2C1COCC2)C(=O)N2[C@H](CCC2)C)(F)F | C23H27F3N4O3
